Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / egg / Oxycodone
 
Attending: ___.
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ woman with HTN, HLD, Fibromyalgia, GERD 
and iron deficiency who presented for acute vertigo.  
 
 She has had URI symptoms for the last ___ weeks with subjective 
fevers holocranial headaches, cough productive of yellow-ish 
sputum, and nasal congestion. She denies facial pain/pressure, 
sore throat. At noon on ___, she was cooking in her kitchen 
when she had sudden onset sensation of dizziness and decreased 
balance. While walking upstairs to lie down, she became weak and 
felt like she was going to pass out. She denies chest pain, 
dyspnea, palpitations or diaphoresis at this time. She was able 
to lie down, but since then has felt very weak, and dizzy with 
movement (e.g turning in bed, bending side to side), standing, 
or sitting upright. She is only comfortable if she is lying with 
her left side down. She describes a sensation of the room 
spinning, or as if she is tilting or swaying. Associated 
symptoms include nausea without vomiting, blurry vision, and 
sensation of "heaviness" in her head. Notably, approximately 1 
hour after the onset of dizziness/vertigo, the right side of her 
body (face, arm, leg) numb and heavy. She states she has had 
this sensation of right sided heaviness before, and was referred 
to neurology. Her right sided heaviness persists on admission.  
 She denies decreased hearing, tinnitus, ear 
pain/discharge/fullness. No rash or vesicles on scalp, face. No 
history of migraine, and currently denies 
photophobia/phonophobia. No recent cervical 
trauma/hyperextension. Her symptoms are not affected by 
coughing, sneezing, or Valsalva.  
 She has no history of stroke, TIA, seizure, or cardiac disease. 
She denies any recent chest pain, shortness of breath no 
abdominal pain, vomiting, dysuria, bowel changes. She is not on 
anticoagulation, no known cardiac disease.  
 Her vitals in ED triage were unremarkable (97.1, 68, 131/84, 
18, 99% RA). Her exam in the ED was notable for no other cranial 
nerve deficits/signs, no pronator drift, and positive 
___ on the right. Labs were notable for mild ___ (Cr 
1.2, baseline 0.9) and baseline anemia (Hgb ___ and negative 
flu PCR.  
 She received PO Meclizine 25 mg.  
 At time of transfer VS were HR 64, BP 106/63, RR 16, and 99% on 
RA.  
 On arrival to the floor, patient reports ongoing symptoms as 
above. She is lying on her left side. 

 
Past Medical History:
Meibomian gland dysfunction  
 fibromyalgia with right-sided body pain  
 hypertension  
 GERD  
 iron deficiency  
 dyslipidemia  
 s/p hysterectomy  
 PPD positive  

 
Social History:
___
Family History:
___ died colon CA age ___  
 dad died of diabetes  
 no heart attacks  
 + HTN  

 
Physical Exam:
===============
ADMISSION PHYSICAL EXAM:  
================
 VS - HR 64, BP 106/63, RR 16, and 99% on RA  
 GENERAL: NAD, lying in bed with left side down. Appears 
uncomfortable and fatigued.  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, mildly injected 
conjunctiva ___, MMM  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: Alert, conversant, attentive. Visual fields and acuity 
full to finger counting. Head-shaking visual acuity to finger 
counting intact at ___ Hz oscillation. Lateral gaze evoked 
nystagmus present with leftward gaze. ___ with 
right-ward gaze induces vertigo and trace right-beating 
nystagmus. No apparent torsional nystagmus or nystagmus with 
central gaze or gaze fixation. Head-thrust test is negative. 
Facial movements and sensation normal. Hearing intact to finger 
rub bilaterally. Palate elevates in midline. Trap/SCM strength 
intact. Tongue midline.  
 Strength ___ in BUE/BLE. Sensation and proprioception intact in 
distal extremities. No tremor or dysmetria. Gait assessment 
limited by patient dizziness; unsteady with standing, appears to 
fall back and to the right. Positive Romberg.  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

===============
DISCHARGE EXAM
===============
VS - 99.2  ___  100-130s/50-70s  18  99% on RA
 GENERAL: Fatigued appearing, pleasant woman in no distress
 HEENT: AT/NC, EOMI, PERRL, MMM
 NECK: nontender supple neck  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: Alert, conversant, attentive. EOMI, no nystagmus. 
Strength ___ in BUE/BLE. Sensation and proprioception intact in 
distal extremities.
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes    

 
Pertinent Results:
=================
ADMISSION LABS
=================
___ 03:00PM BLOOD WBC-4.6 RBC-3.80* Hgb-11.1* Hct-34.2 
MCV-90 MCH-29.2 MCHC-32.5 RDW-12.3 RDWSD-40.2 Plt ___
___ 03:00PM BLOOD Neuts-51.1 ___ Monos-7.9 Eos-0.9* 
Baso-0.4 AbsNeut-2.34 AbsLymp-1.82 AbsMono-0.36 AbsEos-0.04 
AbsBaso-0.02
___ 03:00PM BLOOD ___ PTT-34.8 ___
___ 03:00PM BLOOD Glucose-97 UreaN-23* Creat-1.2* Na-142 
K-3.5 Cl-101 HCO3-31 AnGap-14
___ 06:04AM BLOOD Calcium-8.6 Phos-4.1 Mg-2.1

=================
MICROBIOLOGY
=================
___ Blood culture- pending
Flu PCR negative  

=================
DISCHARGE LABS
=================

___ 06:04AM BLOOD WBC-4.7 RBC-3.59* Hgb-10.3* Hct-32.4* 
MCV-90 MCH-28.7 MCHC-31.8* RDW-12.2 RDWSD-40.3 Plt ___
___ 06:04AM BLOOD Glucose-84 UreaN-19 Creat-0.9 Na-142 
K-3.7 Cl-104 HCO3-29 AnGap-___ with history of HTN who presents with 1 day of vertigo in 
the setting of ___ weeks of a viral URI. She initially described 
a vertiginous sensation. ___ was positive, but Epley 
maneuver did not help with her symptoms. She was also found to 
have ___ (Cr 1.2 from 0.9), likely due to volume depletion in 
the setting of poor PO intake from URI. She was given IV fluids, 
her home hydrochlorothiazide was held, and her ___ resolved. Her 
discharge Cr was 0.9. She was given meclizine for symptomatic 
management of her vertigo. Her symptoms quickly resolved. At the 
time of discharge, she described some residual feelings of 
weakness, but denied vertigo; orthostatics were negative. Her 
symptoms may have been due to volume depletion, or less likely 
vestibular neuritis. As her symptoms rapidly resolved, she was 
not given steroids. 

TRANSITIONAL ISSUES:
-pt discharged off of home hydrochlorothiazide. Consider 
restarting at next clinic visit if blood pressure is elevated.
-discharged with meclizine 25mg po q6h:prn for dizziness
-given prescription for vestibular ___ if symptoms persist
#CODE: Full 
#EMERGENCY CONTACT: son ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO 1X/WEEK (___) 
2. Vitamin D 1000 UNIT PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Ferrous Sulfate 325 mg PO DAILY 
2. Vitamin D ___ UNIT PO 1X/WEEK (___) 
3. Vitamin D 1000 UNIT PO DAILY 
4. Meclizine 25 mg PO Q6H:PRN dizziness 
RX *meclizine 25 mg 1 tablet(s) by mouth q6h:prn Disp #*30 
Tablet Refills:*0
5. Outpatient Physical Therapy
Physical Therapy - Vestibular ___
Diagnose and Treat
Dx: Vestibular neuritis 386.12

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-dehydration
-vertigo
-acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ 
due to vertigo. Thankfully, your symptoms have already 
significantly improved. Your symptoms may be due to your recent 
viral illness and being slightly dehydrated. The symptoms could 
also be due to viral inflammation of the inner ear. 

We will stop your high blood pressure medicine for now. You 
should discuss with your primary care physician when it is safe 
to restart it.

If you find that your symptoms are getting worse, please call 
your primary care physician.

We wish you all the best!
-Your ___ Team
 
Followup Instructions:
___